### PR TITLE
feat(ModelTheory): Set.Definable is transitive

### PR DESCRIPTION
**Pull request by Timeroot**
Upstreamed from the [EquationalTheories](https://github.com/teorth/equational_theories) project.

The main new theorem in this PR is `Set.Definable_trans`, which is that definability of sets in first order logic is transitive. The other work (in Syntax/Semantics) is pretty much all to facilitate that statement and proof.

--- 

 - [x] depends on: #19618
 - [x] depends on: #23501 
 - [x] depends on: #23502 
 - [x] depends on: #23504 
 - [x] depends on: #23506

### CODE REVIEW

**Comment by madvorak** [comment]
Some of the parts are not written in the Mathlib style. Do you want pointers to concrete places that need to be changed?

**Comment by Timeroot** [comment]
> Some of the parts are not written in the Mathlib style. Do you want pointers to concrete places that need to be changed?

Yes please! I tried to adhere to the style but I'm sure I missed some things.

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 1]
```diff
@@ -388,6 +388,17 @@ theorem finPiFinEquiv_single {m : ℕ} {n : Fin m → ℕ} [∀ i, NeZero (n i)]
   rintro x hx
   rw [Pi.single_eq_of_ne hx, Fin.val_zero', zero_mul]
 
+/-- Equivalence between the Sigma type `(i : Fin m) × Fin (n i)` and `Fin (∑ i : Fin m, n i)`. -/
+def finSigmaFinEquiv {m : ℕ} {n : Fin m → ℕ} : (i : Fin m) × Fin (n i) ≃ Fin (∑ i : Fin m, n i) :=
+  match m with
+  | 0 => @Equiv.equivOfIsEmpty _ _ _ (by simp; exact Fin.isEmpty')
```
Comment (madvorak) [inline Mathlib/Algebra/BigOperators/Fin.lean:394]: Do you need `@` here?

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 2]
```diff
@@ -388,6 +388,17 @@ theorem finPiFinEquiv_single {m : ℕ} {n : Fin m → ℕ} [∀ i, NeZero (n i)]
...
+  | Nat.succ m =>
+    calc _ ≃ _ := (@finSumFinEquiv m 1).sigmaCongrLeft.symm
```
Comment (madvorak) [inline Mathlib/Algebra/BigOperators/Fin.lean:396]: If you don't write any of the expressions, `calc` block is a bit superfluous; I'd rather just compose the parts from `:=` on the right.

File: Mathlib/Logic/Equiv/Basic.lean [hunk 3]
```diff
@@ -919,14 +936,27 @@ theorem prodSumDistrib_symm_apply_right {α β γ} (a : α × γ) :
     (prodSumDistrib α β γ).symm (inr a) = (a.1, inr a.2) :=
   rfl
 
-/-- An indexed sum of disjoint sums of types is equivalent to the sum of the indexed sums. -/
+/-- An indexed sum of disjoint sums of types is equivalent to the sum of the indexed sums. Compare
```
Comment (madvorak) [inline Mathlib/Logic/Equiv/Basic.lean:939]: Here it would be nicer to start the second sentence of the new line.

File: Mathlib/ModelTheory/Definability.lean [hunk 4]
```diff
@@ -273,6 +278,22 @@ def Definable₁ (s : Set M) : Prop :=
...
+/-- Definability is transitive. Given a structure S on L and T on L', if:
+  * a set S is Definable in some M-structure on L,
+  * the realizations of all L.Functions have tupleGraph that's Definable on S,
+  * the realizations of all L.Relations are Definable on S,
+then S is Definable on T, as well.
+-/
+theorem Definable.trans {S : Set (α → M)} (h₁ : A.Definable L S)
+    (h₂ : ∀ {n} (g : L[[A]].Functions n), A.Definable L' (g.term.realize).tupleGraph)
+    (h₃ : ∀ {n} (g : L[[A]].Relations n), A.Definable L' (RelMap g))
+    : A.Definable L' S :=
```
Comment (madvorak) [inline Mathlib/ModelTheory/Definability.lean:292]: Move `:` to the previous line.

File: Mathlib/ModelTheory/Definability.lean [hunk 5]
```diff
@@ -389,3 +410,139 @@ end DefinableSet
...
+
+@[fun_prop]
+theorem TermDefinable.mono {f : (α → M) → M} (h : A.TermDefinable L f) (hAB : A ⊆ B) :
+    B.TermDefinable L f := by
+  rw [termDefinable_iff_empty_termDefinable_with_params] at *
+  exact h.map_expansion (L.lhomWithConstantsMap (Set.inclusion hAB))
+
+/-- TermDefinable is transitive. If f is TermDefinable in a structure S on L, and all of the
+  functions' realizations on S are TermDefinable on a structure T on L', then f is
+  TermDefinable on T in L'.
```
Comment (madvorak) [inline Mathlib/ModelTheory/Definability.lean:464]: End the comment here.

File: Mathlib/ModelTheory/Definability.lean [hunk 6]
```diff
@@ -389,3 +410,139 @@ end DefinableSet
...
+-/
+@[fun_prop]
+theorem TermDefinable.trans {f : (β → M) → M} (h₁ : A.TermDefinable L f)
+    (h₂ : ∀ {n} (g : L[[A]].Functions n), A.TermDefinable L' g.term.realize)
+    : A.TermDefinable L' f := by
```
Comment (madvorak) [inline Mathlib/ModelTheory/Definability.lean:469]: Move `:` to the previous line.

File: Mathlib/ModelTheory/Semantics.lean [hunk 7]
```diff
@@ -1023,6 +1042,301 @@ theorem infinite [Mi : Infinite M] (h : M ≅[L] N) : Infinite N :=
...
+/-- `Term.subst_definitions` agrees with the original formula once realized, assuming all the side
+conditions are met. -/
+theorem subst_definitions_eq (t : L.Term α)
+  {Fs : ∀ {n} (_ : L.Functions n), L'.Formula (Fin n ⊕ Unit)}
+  (hFs : ∀ {n} (g : L.Functions n),
+    (Function.tupleGraph fun v ↦ g.term.realize v) = ((Fs g).Realize : Set (_ → M)))
+  {sideVals : Fin (t.subst_definitions Fs).1 → M}
+  (v : α → M)
+  (hSideVals : ∀ s ∈ (t.subst_definitions Fs).2.2, s.Realize (Sum.elim v sideVals))
+  : (t.subst_definitions Fs).2.1.realize (Sum.elim v sideVals) = t.realize v := by
```
Comment (madvorak) [inline Mathlib/ModelTheory/Semantics.lean:1060]: Move `:` to the previous line.

File: Mathlib/ModelTheory/Semantics.lean [hunk 8]
```diff
@@ -1023,6 +1042,301 @@ theorem infinite [Mi : Infinite M] (h : M ≅[L] N) : Infinite N :=
...
+    induction t
+    next a =>
```
Comment (madvorak) [inline Mathlib/ModelTheory/Semantics.lean:1062]: This is not the recommended style afaik.

File: Mathlib/ModelTheory/Semantics.lean [hunk 9]
```diff
@@ -1023,6 +1042,301 @@ theorem infinite [Mi : Infinite M] (h : M ≅[L] N) : Infinite N :=
...
+        List.mem_cons, List.mem_flatMap, List.mem_finRange, List.mem_map, true_and,
+        forall_eq_or_imp, forall_exists_index, and_imp] at hSideVals
+
+      --Break the "hSideVals" hypothesis list into the hypothesis on the function output,
+      -- and the hypotheses on the function inputs
+      replace ⟨hOutput, hSideVals⟩ := hSideVals
+      simp only [Formula.Realize, isValue, BoundedFormula.realize_subst] at hOutput
+
+      --We use hFs to simplify the function output condition
+      unfold Formula.Realize at hFs
```
Comment (madvorak) [inline Mathlib/ModelTheory/Semantics.lean:1075]: Can the `unfold` be removed?

File: Mathlib/ModelTheory/Semantics.lean [hunk 10]
```diff
@@ -1023,6 +1042,301 @@ theorem infinite [Mi : Infinite M] (h : M ≅[L] N) : Infinite N :=
...
+
+      --Apply the inductive hypothesis, with the appropriate arguments plugged in
+      replace ih : ∀ (i : Fin _), _ := fun i ↦ ih i
+        (fun s hs ↦ by  simpa only [FirstOrder.Language.Formula.realize_relabel, Sum.elim_comp_map]
+            using hSideVals (s.relabel <| Sum.map id fun βi ↦
+              finSumFinEquiv <| Sum.inl <| finSigmaFinEquiv ⟨i,βi⟩) i s hs rfl
+        )
+      simp_rw [← ih]; clear ih
+
+      rw [Sum.elim_comp_map]
```
Comment (madvorak) [inline Mathlib/ModelTheory/Semantics.lean:1097]: For the sake of stability, I'd rather do `rewrite` than `rw` here.

File: Mathlib/ModelTheory/Semantics.lean [hunk 11]
```diff
@@ -1023,6 +1042,301 @@ theorem infinite [Mi : Infinite M] (h : M ≅[L] N) : Infinite N :=
...
+      ) (fun _ ↦ (func f args).realize v)
+
+/-- The side conditions produced by subst_definitions always have a satisfying assignment, which
+ is the extra side-values. -/
+theorem subst_definitions_extraVals_spec (t : L.Term α)
+  {Fs : ∀ {n} (_ : L.Functions n), L'.Formula (Fin n ⊕ Unit)}
+  (hFs : ∀ {n} (g : L.Functions n),
+    (Function.tupleGraph fun v ↦ g.term.realize v) = ((Fs g).Realize : Set (_ → M)))
+    (v : α → M)
+  : ∀ s ∈ (t.subst_definitions Fs).2.2, s.Realize (Sum.elim v
```
Comment (madvorak) [inline Mathlib/ModelTheory/Semantics.lean:1121]: Move `:` to the previous line.

File: Mathlib/ModelTheory/Semantics.lean [hunk 12]
```diff
@@ -1023,6 +1042,301 @@ theorem infinite [Mi : Infinite M] (h : M ≅[L] N) : Infinite N :=
...
+      (t.subst_definitions_extraVals Fs v)) := by
+  induction t
+  next =>
```
Comment (madvorak) [inline Mathlib/ModelTheory/Semantics.lean:1124]: Again, not the usual way we write induction.

File: Mathlib/ModelTheory/Semantics.lean [hunk 13]
```diff
@@ -1023,6 +1042,301 @@ theorem infinite [Mi : Infinite M] (h : M ≅[L] N) : Infinite N :=
...
+        rw [Equiv.leftInverse_symm finSigmaFinEquiv]
+
+/-- `Term.subst_definitions_extraVals` bundled with their defining property
+  `Term.subst_definitions_extraVals_spec`. -/
+def subst_definitions_extraVals_X (t : L.Term α)
+  {Fs : ∀ {n} (_ : L.Functions n), L'.Formula (Fin n ⊕ Unit)}
+  (hFs : ∀ {n} (g : L.Functions n),
+    (Function.tupleGraph fun v ↦ g.term.realize v) = ((Fs g).Realize : Set (_ → M)))
+    (v : _)
+  : { xs : Fin (t.subst_definitions Fs).1 → M //
```
Comment (madvorak) [inline Mathlib/ModelTheory/Semantics.lean:1166]: Move `:` to the previous line.

File: Mathlib/ModelTheory/Semantics.lean [hunk 14]
```diff
@@ -1023,6 +1042,301 @@ theorem infinite [Mi : Infinite M] (h : M ≅[L] N) : Infinite N :=
...
+namespace BoundedFormula
+
+/-- `BoundedFormula.subst_definitions` agrees with the original formula once realized. -/
+theorem subst_definitions_eq {k : ℕ} (f : L.BoundedFormula α k)
+  {Fs : ∀ {n} (_ : L.Functions n), L'.Formula (Fin n ⊕ Unit)}
+  (hFs : ∀ {n} (g : L.Functions n),
+    (Function.tupleGraph fun v ↦ g.term.realize v) = ((Fs g).Realize : Set (_ → M)))
+  {Rs : ∀ {n} (_ : L.Relations n), L'.Formula (Fin n)}
+  (hRs : ∀ {n} (g : L.Relations n), RelMap (M := M) g = (Rs g).Realize)
+  : ∀ vL vR, (f.subst_definitions Fs Rs).Realize (M := M) vL vR = f.Realize vL vR := by
```
Comment (madvorak) [inline Mathlib/ModelTheory/Semantics.lean:1181]: Move `:` to the previous line.

File: Mathlib/ModelTheory/Semantics.lean [hunk 15]
```diff
@@ -1023,6 +1042,301 @@ theorem infinite [Mi : Infinite M] (h : M ≅[L] N) : Infinite N :=
...
+    induction f
+    next =>
```
Comment (madvorak) [inline Mathlib/ModelTheory/Semantics.lean:1183]: Dtto above.

File: Mathlib/ModelTheory/Semantics.lean [hunk 16]
```diff
@@ -1023,6 +1042,301 @@ theorem infinite [Mi : Infinite M] (h : M ≅[L] N) : Infinite N :=
...
+        )
+        convert h using 1 <;> {
+          rw [Term.realize_relabel]
+          congr
+          funext sum
+          cases sum <;> simp
+        }
+      · intro h xs is
+        have ht₁ := t₁.subst_definitions_eq hFs _ (by
+          simp at is
```
Comment (madvorak) [inline Mathlib/ModelTheory/Semantics.lean:1223]: This proof looks weird.

File: Mathlib/ModelTheory/Semantics.lean [hunk 17]
```diff
@@ -1023,6 +1042,301 @@ theorem infinite [Mi : Infinite M] (h : M ≅[L] N) : Infinite N :=
...
+namespace Formula
+
+/-- `Formula.subst_definitions` agrees with the original formula once realized. -/
+theorem subst_definitions_eq (f : L.Formula α)
+  {Fs : ∀ {n} (_ : L.Functions n), L'.Formula (Fin n ⊕ Unit)}
+  (hFs : ∀ {n} (g : L.Functions n),
+    (Function.tupleGraph fun v ↦ g.term.realize v) = ((Fs g).Realize : Set (_ → M)))
+  {Rs : ∀ {n} (_ : L.Relations n), L'.Formula (Fin n)}
+  (hRs : ∀ {n} (g : L.Relations n), RelMap (M := M) g = (Rs g).Realize)
+  : ∀ v, (f.subst_definitions Fs Rs).Realize (M := M) v = f.Realize v := by
```
Comment (madvorak) [inline Mathlib/ModelTheory/Semantics.lean:1333]: Move `:` to the previous line.

File: Mathlib/Algebra/BigOperators/Fin.lean (hunk 1 above)
Comment (Timeroot) [reply Mathlib/Algebra/BigOperators/Fin.lean:394]: Yes, the one argument I'm providing (and it seems necessary to manually provide) is an instance parameter which doesn't have name. An alternative would be to write
```
let _ : IsEmpty (Fin (∑ i, n i)) := by simpa using Fin.isEmpty'
Equiv.equivOfIsEmpty _ _
```
which works, if you think that's cleaner.

File: Mathlib/Algebra/BigOperators/Fin.lean (hunk 2 above)
Comment (Timeroot) [reply Mathlib/Algebra/BigOperators/Fin.lean:396]: Sure, you think

```
      (@finSumFinEquiv m 1).sigmaCongrLeft.symm.trans <|
      (Equiv.sumSigmaDistrib _).trans <|
      (finSigmaFinEquiv.sumCongr (Equiv.uniqueSigma _)).trans <|
      finSumFinEquiv.trans <|
      finCongr (Fin.sum_univ_castSucc n).symm
```

is best then?

File: Mathlib/ModelTheory/Semantics.lean (hunk 8 above)
Comment (Timeroot) [reply Mathlib/ModelTheory/Semantics.lean:1062]: What is the preferred style? I see a lot of different styles in mathlib when I do a quick search. (`induction` followed by `·`, followed by `| zero =>`, even a few instances of `· next x y =>`...)

File: Mathlib/ModelTheory/Semantics.lean (hunk 16 above)
Comment (Timeroot) [reply Mathlib/ModelTheory/Semantics.lean]: Happy to change it if you tell me an equivalent/better way to write it. The actual statement of the have is quite long and ugly. I tried `:= t₁.subst_definitions_eq hFs _ ?_` so that I could fill in the missing proof as another goal, but the it can't infer the value of the underscore and it gives errors.

File: Mathlib/ModelTheory/Definability.lean [hunk 18]
```diff
@@ -21,16 +22,20 @@ This file defines what it means for a set over a first-order structure to be def
   `(s : Set (M × M))` is definable with parameters in `A`.
 - A `FirstOrder.Language.DefinableSet` is defined so that `L.DefinableSet A α` is the boolean
   algebra of subsets of `α → M` defined by formulas with parameters in `A`.
+- A function `f` is `A.TermDefinable L` if its graph can be expressed as a term in the language,
```
Comment (awainverse) [inline Mathlib/ModelTheory/Definability.lean:25]:
```suggestion
- A function `f` is `A.TermDefinable L` if it can be expressed as a term in the language,
```
I think part of the point of term-definability is that you don't have to refer to the graph, just the function

File: Mathlib/ModelTheory/Definability.lean [hunk 19]
```diff
@@ -21,16 +22,20 @@ This file defines what it means for a set over a first-order structure to be def
...
+  which is stronger than typical FO definability. `A.TermDefinable L`
 
 ## Main Results
 
 - `L.DefinableSet A α` forms a `BooleanAlgebra`
 - `Set.Definable.image_comp` shows that definability is closed under projections in finite
   dimensions.
+- `Set.Definable_trans` shows that `Set.Definable` is transitive, in the sense that if `S` can be
+  defined in `L` and all of `L`'s functions and relations can be defined in `L'`, then `S` is
+  also definanble in `L'`.
```
Comment (awainverse) [inline Mathlib/ModelTheory/Definability.lean:35]:
```suggestion
  also definable in `L'`.
```

File: Mathlib/ModelTheory/Definability.lean [hunk 20]
```diff
@@ -265,6 +270,21 @@ def Definable₁ (s : Set M) : Prop :=
...
   A.Definable L { x : Fin 2 → M | (x 0, x 1) ∈ s }
 
+variable (L' : Language) [inst' : L'.Structure M]
+
+/-- Definability is transitive. Given a structure S on L and T on L', if:
+  * a set S is Definable in some M-structure on L,
+  * the realizations of all L.Functions have tupleGraph that's Definable on S,
+  * the realizations of all L.Relations are Definable on S,
+then S is Definable on T, as well. -/
+theorem Definable.trans {S : Set (α → M)} (h₁ : A.Definable L S)
```
Comment (awainverse) [inline Mathlib/ModelTheory/Definability.lean:280]: The assumptions on this theorem are very close to some more-commonly used logic definitions, and it would be worth considering whether it's appropriate to do this through one of those.

- If L extends the language L', then this is basically an extension-by-definition.
- This is also very close to interpretability

File: Mathlib/ModelTheory/Definability.lean (hunk 18 above)
Comment (Timeroot) [reply Mathlib/ModelTheory/Definability.lean:25]: Oops, yes. I was thinking about `theorem TermDefinable.Definable` which is a result (and not the definition).

File: Mathlib/ModelTheory/Definability.lean [hunk 21]
```diff
@@ -381,3 +401,138 @@ end DefinableSet
...
+    A.TermDefinable₁ L (f ∘ g) := by
+  obtain ⟨fφ,rfl⟩ := hf
+  obtain ⟨gφ,rfl⟩ := hg
+  use fφ.subst (fun (_:Unit) ↦ gφ)
+  funext m
+  simp [Function.const_def]
+
+/-- A `TermDefinable` function postcomposed with `TermDefinable₁` is `TermDefinable`. -/
+@[fun_prop]
+theorem TermDefinable₁_comp_TermDefinable {f : M → M} {g : (α → M) → M}
```
Comment (awainverse) [inline Mathlib/ModelTheory/Definability.lean:529]: We could also compose a higher-arity (term-)definable function with a tuple of (term-)definable functions.

File: Mathlib/ModelTheory/Syntax.lean [hunk 22]
```diff
@@ -269,14 +281,21 @@ end LHom
...
   left_inv := by
     rw [Function.leftInverse_iff_comp, ← LHom.comp_onTerm, φ.left_inv, LHom.id_onTerm]
   right_inv := by
     rw [Function.rightInverse_iff_comp, ← LHom.comp_onTerm, φ.right_inv, LHom.id_onTerm]
 
+theorem LEquiv.onTerm_symm (φ : L ≃ᴸ L') : (φ.onTerm.symm : L'.Term α ≃ L.Term α) = φ.symm.onTerm :=
+  rfl
+
+/-- Maps a term's symbols along a language equivalence. Deprecated in favor of `LEquiv.onTerm`. -/
+@[deprecated LEquiv.onTerm (since := "2024-12-02")]
```
Comment (awainverse) [inline Mathlib/ModelTheory/Syntax.lean:296]: This whole PR seems quite big, and I expect it will help to split it up - if you do, it may be good to have one preliminary PR to just fix this nomenclature.

**Review by awainverse — COMMENTED** [review]
I haven't gone through everything yet, but here are some observations.

File: Mathlib/ModelTheory/Definability.lean (hunk 20 above)
Comment (Timeroot) [reply Mathlib/ModelTheory/Definability.lean:280]: I poked at this a while (when I first wrote it) and this was the best set of assumptions I could come up with. I would not be all surprised though if you have something better. :)

Consider maybe, this as the "basic" statement, but then some specializations of this theorem with hypotheses that fit more naturally into certain uses...? I don't know.

File: Mathlib/ModelTheory/Syntax.lean (hunk 22 above)
Comment (Timeroot) [reply Mathlib/ModelTheory/Syntax.lean:296]: Sure, that's a good point. I guess there are a few small lemmas/defs I have in this PR that I can also pull out separately (making explicit note of the names here also for myself):
 * `realize_function_term`
 * `realize_foldr_imp`
 * `Functions.term`
 * `substFunc`

Then, I can pull out the `TermDefinable` stuff into a separate PR.

That leaves something like 60% of this PR left, which is the various forms of `subst_definitions_eq` that all kind of need to coexist, describing how to substitute first-order formula (not just terms) into each other. That's the bulk here -- "substituting" formulas is a lot messier, since you really need to build them at the formula level but then pass the information through when you go in and recurse down the terms. If that makes sense.

Anyway, that would probably split the PR decently well.

**Comment by Timeroot** [comment]
I split off the more standalone parts into #23501, #23502, and #23504. They're all pretty small and should be fast

File: Mathlib/ModelTheory/Syntax.lean (hunk 22 above)
Comment (Timeroot) [reply Mathlib/ModelTheory/Syntax.lean:297]: ✅

File: Mathlib/ModelTheory/Definability.lean (hunk 21 above)
Comment (Timeroot) [reply Mathlib/ModelTheory/Definability.lean:529]: Added this in!

**Comment by Timeroot** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/28700
